US09388153B2
A 2 M solution of (diazomethyl)trimethylsilane in THF (0.20 mL, 0.40 mmol) was added to a solution of 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetic acid (159 mg, 0.421 mmol) in THF (5 mL) at 0° C. in a 50 mL round bottom flask. The mixture was allowed to stir for 2 hours at room temperature. The resulting mixture was concentrated in vacuo and the resulting crude residue was purified on a Teledyne-Isco combiflash machine (12 g column, hexanes→100% ethyl acetate/hexanes, gradient), to afford 135 mg (82%) of methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate.

reactant | (diazomethyl)trimethylsilane | [N+](=[N-])=C[Si](C)(C)C | C4H10N2Si
reactant | 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetic acid | 0.421 mmol, 159 mg | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)NC=1C=C(OCC(=O)O)C=CC1 | C23H20FNO3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.40 mmol, 0.20 mL | C1CCOC1 | C4H8O
product | methyl 2-(3-((6-(3-fluorophenyl)-2,3-dihydro-1H-inden-1-yl)amino)phenoxy)acetate | 135 mg, 82% | FC=1C=C(C=CC1)C1=CC=C2CCC(C2=C1)NC=1C=C(OCC(=O)OC)C=CC1 | C24H22FNO3
